US07592453B2
Methyl 6-(1H-pyrazol-1-yl)nicotinate
To a suspension of pyrrole (0.356 g, 5.23 mmol) in DMF (20 ml) was added sodium hydride (60% in oil, 0.233 g, 5.81 mmol). After stirring for 5 hrs., methyl 6-chloronicotinate (1.00 g, 5.81 mmol) was added, and the mixture was further stirred for 27 hrs. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried (over anhydrous MgSO4). After concentration under reduced pressure, the precipitated solid was collected by filtration and washed with hexane to give the title compound (0.683 g, 64%) as a colorless powder.

reactant | pyrrole | 5.23 mmol, 0.356 g | N1C=CC=C1 | C4H5N
reactant | sodium hydride | 5.81 mmol, 0.233 g | [H-].[Na+]
reactant | methyl 6-chloronicotinate | 5.81 mmol, 1.00 g | ClC1=NC=C(C(=O)OC)C=C1 | C7H6ClNO2
reactant | Water | O | H2O
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
product | Methyl 6-(1H-pyrazol-1-yl)nicotinate | 0.683 g, 64% | N1(N=CC=C1)C1=NC=C(C(=O)OC)C=C1 | C10H9N3O2
